US07795236B2
3-Hydroxy-4-phenylbenzonitrile
To an ice-cold solution of 3-methoxy 4-phenyl-benzonitrile (1.42 g) in dichloromethane (27 mL) was added dropwise boron tribromide (1.27 mL). The resulting mixture was stirred at room temperature for 1 hour and then at 30° C. for 38 hours. Boron tribromide (0.634 mL) was added dropwise and stirring was continued for additional 23 hours. The reaction mixture was poured into ice (40 g) and the whole was extracted with ethyl acetate (75 mL). The organic layer was washed successively with 1 mol/L hydrochloric acid (25 mL), saturated aqueous sodium hydrogen carbonate (25 mL) and brine (25 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (1.21 g).

reactant | 3-methoxy 4-phenyl-benzonitrile | 1.42 g | COC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C14H11NO
reactant | boron tribromide | 1.27 mL | B(Br)(Br)Br | BBr3
reactant | Boron tribromide | 0.634 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 27 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-4-phenylbenzonitrile | 1.21 g | OC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C13H9NO
